US09023883B2
To a solution of N-(3-(4-formyl-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-3-yl)phenyl)-3-methylbut-2-enamide (0.210 g, 0.00062 mol) in methanol (4 mL) were added TEA (313 mg, 0.0031 mol), ZnCl2 (0.008 g, 0.000062 mol) and tert-butyl methyl(2(methylamino)ethyl)carbamate (0.138 g, 0.00074 mol). The reaction mixture was stirred at rt for 45 min. NaCNBH3 (0.580 g, 0.00913 mol) was added and stirred for 2 h at rt. The reaction was poured into water (100 mL) and extracted with EtOAc (100 mL×2). The combined extracts was washed with brine (200 mL), dried over sodium sulphate and concentrated under vacuum. The residue was purified by SGC using DCM:MeOH (0%-4%) as eluent to obtain tert-butyl methyl(2-(methyl((3-(3-(3-methylbut-2-enamido)phenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl)methyl)amino)ethyl)carbamate (0.150 g, Yield: 47%). LCMS (ESI): RT=2.03 min, m/z=526.5 [M+H]+.

reactant | N-(3-(4-formyl-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-3-yl)phenyl)-3-methylbut-2-enamide | 0.00062 mol, 0.210 g | C(=O)C=1C(=NN(C1)C1OCCCC1)C=1C=C(C=CC1)NC(C=C(C)C)=O | C20H23N3O3
reactant | tert-butyl methyl(2(methylamino)ethyl)carbamate | 0.00074 mol, 0.138 g | CN(C(OC(C)(C)C)=O)CCNC | C9H20N2O2
reactant | NaCNBH3 | 0.00913 mol, 0.580 g | [BH3-]C#N.[Na+]
reactant | water | 100 mL | O | H2O
solvent | methanol | 4 mL | CO | CH4O
catalyst | ZnCl2 | 0.000062 mol, 0.008 g | [Cl-].[Cl-].[Zn+2]
product | tert-butyl methyl(2-(methyl((3-(3-(3-methylbut-2-enamido)phenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl)methyl)amino)ethyl)carbamate | 0.150 g, Yield: 47% | CN(C(OC(C)(C)C)=O)CCN(CC=1C(=NN(C1)C1OCCCC1)C1=CC(=CC=C1)NC(C=C(C)C)=O)C | C29H43N5O4
